US07129238B2
4-(Bromomethyl)-3-fluorobenzonitrile (CAS 105942-09-4, 21 g) was dissolved in DMF (90 ml). Phthalimide potassium salt (19.64 g) was added and the mixture was stirred for 9 h at 130° C. After cooling to rt, the mixture was poured on ice. The solid was filtered off. Ethyl acetate and water were added and extracted with ethyl acetate. The organic phase was washed with water, dried, filtered and evaporated to give a light brown solid (14.1 g, 42% pure as judged by NMR). This solid was suspended in ethanol (50 ml). A solution of hydrazine in water (24%, 15 ml) was added and the mixture was refluxed for a total of 14 h. The mixture was filtered and the solvent was evaporated. The product was purified by chromatography (silica gel, CH2Cl2=>CH2Cl2/MeOH 4:1) to give 4-aminomethyl-3-fluoro-benzonitrile (0.63 g) as a brown oil.

reactant | 4-(Bromomethyl)-3-fluorobenzonitrile | 21 g | BrCC1=C(C=C(C#N)C=C1)F | C8H5BrFN
reactant | Phthalimide potassium salt | 19.64 g | [K].C1(C=2C(C(N1)=O)=CC=CC2)=O
reactant | hydrazine | NN | H4N2
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | 4-aminomethyl-3-fluoro-benzonitrile | 0.63 g | NCC1=C(C=C(C#N)C=C1)F | C8H7FN2
